US09062005B2
Step B: Preparation of 4-(2,4-Dichlorophenyl)-N-(2,4-difluorophenyl)-1,3-dimethyl-1H-pyrazol-5-amine
Acetic acid (50 μL) and methylhydrazine (41 μL) were added to a stirred suspension of α-acetyl-2,4-dichloro-N-(2,4-difluorophenyl)benzeneethanethioamide (238 mg, 0.64 mmol) in ethanol (4 mL). The reaction mixture was heated at reflux for 2 h and allowed to cool. Then the reaction mixture was diluted with ethyl acetate (10 mL) and washed with 1 N aqueous NaOH (10 mL), water (10 mL) and brine (10 mL), dried over MgSO4, and concentrated to leave a solid residue. The residue was purified by column chromatography on 5 g of silica gel with a gradient of hexanes/ethyl acetate (2:1 to 1:1) to give the title compound as a solid (170 mg).

reactant | Acetic acid | 50 μL | C(C)(=O)O | C2H4O2
reactant | methylhydrazine | 41 μL | CNN | CH6N2
reactant | α-acetyl-2,4-dichloro-N-(2,4-difluorophenyl)benzeneethanethioamide | 0.64 mmol, 238 mg | C(C)(=O)C(C(NC1=C(C=C(C=C1)F)F)=S)C1=C(C=C(C=C1)Cl)Cl | C16H11Cl2F2NOS
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2,4-Dichlorophenyl)-N-(2,4-difluorophenyl)-1,3-dimethyl-1H-pyrazol-5-amine | 170 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=NN(C1NC1=C(C=C(C=C1)F)F)C)C | C17H13Cl2F2N3
